US06310070B1
An amidation reaction and post-treatment were carried out under the same conditions as in Example 19, using 2.0 g (8.5 mmol) of 4-amino-1-(4-fluorobenzyl)-5-imidazolecarboxamide which was prepared in the same manner as in Example 58 and isonicotinic acid instead of cyclopentylacetic acid to obtain 1.87 g of 1-(4-fluorobenzyl)-4-(4-pyridylcarbonylamino)-5-imidazolecarboxamide (yield 65%).

reactant | 4-amino-1-(4-fluorobenzyl)-5-imidazolecarboxamide | 8.5 mmol, 2.0 g | NC=1N=CN(C1C(=O)N)CC1=CC=C(C=C1)F | C11H11FN4O
reactant | isonicotinic acid | C(C1=CC=NC=C1)(=O)O | C6H5NO2
product | 1-(4-fluorobenzyl)-4-(4-pyridylcarbonylamino)-5-imidazolecarboxamide | 1.87 g, yield 65% | FC1=CC=C(CN2C=NC(=C2C(=O)N)NC(=O)C2=CC=NC=C2)C=C1 | C17H14FN5O2
